simulator lang=spectre
global 0
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=bjt_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=dio_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=res_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=mim_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=var_tt

subckt TCFC VINN VINP VOUT IBIAS VDD VSS
PM11 (net047 IBIASP1 VDD VDD) p18 w=2.2e-07 l=1.8e-07 ////Bias Transistor, should not change
PM10 (IBIASP1 IBIASP2 net047 VDD) p18 w=2.2e-07 l=1.8e-07 ////Bias Transistor, should not change
PM18 (net70 net036 VDD VDD) p18 w=4.2e-07 l=5.6e-07 m=1 //// *Load* *gm1* ``PM19``
PM19 (net036 net036 VDD VDD) p18 w=4.2e-07 l=5.6e-07 m=1 //// *Load* *gm1* ``PM18``
PM13 (net47 IBIASP2 net044 VDD) p18 w=8.7e-07 l=2.5e-07 m=1 //// *Load* *gm2*  *gmt-Input*
PM8 (net039 net70 VDD VDD) p18 w=1.83e-06 l=2.2e-07 m=1 //// *Input* *gm2*
PM7 (net044 IBIASP1 VDD VDD) p18 w=1.33e-06 l=7.7e-07 m=1 //// *Load* *gm2*
PM2 (VOUT net70 VDD VDD) p18 w=1.43e-06 l=1.9e-07 m=1 //// *Load* *gm3*
NM24 (net039 IBIAS net43 VSS) n18 w=8.9e-07 l=2.5e-07 m=1 //// *Load* *gm2*
NM23 (net045 IBIAS2 VSS VSS) n18 w=2.2e-07 l=1.8e-07 ////Bias Transistor, should not change
NM22 (IBIASP2 IBIAS net045 VSS) n18 w=2.2e-07 l=1.8e-07 ////Bias Transistor, should not change
NM21 (net43 IBIAS2 VSS VSS) n18 w=1.04e-06 l=1.8e-07 m=1 //// *Load* *gm2*
NM17 (net036 VINN net035 VSS) n18 w=9.4e-07 l=2.7e-07 m=1 //// *Input* *gm1* ``NM18``
NM18 (net70 VINP net035 VSS) n18 w=9.4e-07 l=2.7e-07 m=1 //// *Input* *gm1* ``NM17``
NM19 (net035 IBIAS2 VSS VSS) n18 w=6.8e-07 l=5.8e-07 m=1 //// *Current tail* *gm1*
NM9 (net47 net039 VSS VSS) n18 w=2.39e-06 l=7e-07 m=1 //// *Load* *gm2*
NM6 (net049 IBIAS2 VSS VSS) n18 w=2.2e-07 l=1.8e-07 ////Bias Transistor, should not change
NM4 (VOUT net47 VSS VSS) n18 w=3.39e-06 l=1.9e-07 m=1 //// *Input* *gm3*
NM8 (net43 net039 VSS VSS) n18 w=1.98e-06 l=3.4e-07 m=1 //// *Load* *gm2*
NM5 (IBIAS2 IBIAS net049 VSS) n18 w=2.2e-07 l=1.8e-07 ////Bias Transistor, should not change
C3 (net044 VOUT) capacitor c=1.6e-12 m=1 ////Miller cap 2
C0 (net70 VOUT) capacitor c=1.07e-12 m=1 ////Miller cap 1
R1 (IBIASP1 IBIASP2) resistor r=100000.00000000001////Bias Resistor, should not change
R0 (IBIAS IBIAS2) resistor r=100000.00000000001////Bias Resistor, should not change
ends TCFC



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=5e-10
            I0 (VDD IBIAS) isource dc=2e-06 type=dc
            V2 (VINP 0) vsource dc=0.9 type=dc
            IPRB0 (VINN VOUT) iprobe
            I1 (VINN VINP VOUT IBIAS VDD VSS) TCFC
            